US08629157B2
Step 2: Synthesis of (Z)-3-amino-4,4-dimethyl-pent-2-enenitrile
To a solution of 4,4-dimethyl-3-oxo-pentanenitrile (22 g, 175.76 mmol) in 250 mL of ethanol is added ammonium nitrate (21 g; 263.64 mmol). The mixture is stirred under reflux overnight while ammonia gas is bubbled through the solution. The mixture is cooled to room temperature and diluted with 100 mL of water. The mixture is concentrated under reduced pressure to remove most of the ethanol. Aqueous sodium hydroxide (140 mL, 0.3N) is added and the mixture is extracted with ether (2×200 mL). The combined organic layers are washed with 50 mL of water, dried over sodium sulfate, filtered and concentrated under reduced pressure to afford title compound. Assumed quantitative yield and used crude in subsequent reaction. ESI m/z 125=MH+

reactant | 4,4-dimethyl-3-oxo-pentanenitrile | 175.76 mmol, 22 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | ammonium nitrate | 263.64 mmol, 21 g | [N+](=O)([O-])[O-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | (Z)-3-amino-4,4-dimethyl-pent-2-enenitrile | quantitative yield | N\C(=C/C#N)\C(C)(C)C | C7H12N2
